US06730792B2
Methyl hydrazine (23.2 mmol, 1.23 ml) is added to a solution of 2-(3-hydroxy-2-propen-1-on-1yl)phenol (J. Am. Chem. Soc., 72:3396, 1950), 15.4 mmol, 2.54 g) in methanol (7 ml) and the mixture is heated at 100° C. for one hour. After cooling, the reaction mixture is diluted with water (100 ml) and stirred for one hour. The precipitate is collected via filtration and purified on silica gel (30% ethyl acetate/hexane) to give 811 mg of 2-(1-methylpyrazol-3-yl)phenol.

reactant | Methyl hydrazine | 23.2 mmol, 1.23 ml | CNN | CH6N2
reactant | 2-(3-hydroxy-2-propen-1-on-1yl)phenol | OC=CC(=O)C1=C(C=CC=C1)O | C9H8O3
solvent | methanol | 7 ml | CO | CH4O
solvent | water | 100 ml | O | H2O
product | 2-(1-methylpyrazol-3-yl)phenol | 811 mg | CN1N=C(C=C1)C1=C(C=CC=C1)O | C10H10N2O
